* source 2INPUT NAND ENHANCEMENT LOAD
.EXTERNAL INPUT Vout
M_M1         N00207 N00207 VOUT VOUT MbreakN           
M_M2         VOUT N00229 N00130 0 Mbreakn           
M_M3         N00130 N00238 0 0 MbreakN           
V_A         N00229 0 0
V_B         N00238 0 5
V_Vdd         N00207 0 5Vdc
