* source 2INPUT NOR CMOS
.EXTERNAL INPUT Vout
M_M2         VOUT N00229 0 0 Mbreakn           
M_M3         VOUT N00238 0 0 MbreakN           
V_A         N00229 0 5
V_B         N00238 0 5
V_Vdd         N01147 0 5Vdc
M_M4         N00104 N00229 N01147 N01147 MbreakP           
M_M5         VOUT N00238 N00104 N01147 Mbreakp           
