* source 2INPUT NOR PSEUDONMOS
.EXTERNAL INPUT Vout
M_M2         VOUT N00229 0 0 Mbreakn           
M_M3         VOUT N00238 0 0 MbreakN           
V_A         N00229 0 5Vdc
V_B         N00238 0 0Vdc
V_Vdd         N01057 0 5Vdc
M_M4         VOUT 0 N01057 N01057 MbreakP           
