* source CMOS INVERTER
.EXTERNAL OUTPUT Vout
V_Vin         N00673 0 0Vdc
V_Vdd         N00619 0 5Vdc
M_M1         VOUT N00673 0 0 Mbreakn           
M_M2         VOUT N00673 N00619 N00619 Mbreakp           
