* source PSEUDO NMOS INVERTER
.EXTERNAL OUTPUT Vout
V_Vdd         N02067 0 5Vdc
M_M1         VOUT N02058 0 0 Mbreakn           
M_M2         VOUT 0 N02067 N02067 Mbreakp           
V_Vdd1         N02058 0 2.78885
